US04873236
4,9-Dihydro-3-methyl-4-[[[2-[4-[3-(piperidin-l-yl)propyl]-piperidin-l-yl]ethyl]amino]carbonyl]-10H-thieno[3,4-b][1,5]benzodiazepin-10-one
Prepared analogously to Example 1 from 4-(chlorocarbonyl)-4,9-dihydro-3-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one and 2-[4-[3-(piperidin-l-yl)propyl]-piperidin-l-yl]ethanamine in a yield of 9% of theory. Colourless crystals, m.p. 170°-171° C.

reactant | 4-(chlorocarbonyl)-4,9-dihydro-3-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | ClC(=O)N1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2C | C13H9ClN2O2S
reactant | 2-[4-[3-(piperidin-l-yl)propyl]-piperidin-l-yl]ethanamine | N1(CCCCC1)CCCC1CCN(CC1)CCN | C15H31N3
product | 4,9-Dihydro-3-methyl-4-[[[2-[4-[3-(piperidin-l-yl)propyl]-piperidin-l-yl]ethyl]amino]carbonyl]-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | yield of 9% | CC=1SC=C2C1N(C1=C(NC2=O)C=CC=C1)C(=O)NCCN1CCC(CC1)CCCN1CCCCC1 | C28H39N5O2S
